US05646149
A solution of malonic acid (Aldrich, 4.36 g, 41.9 mmol), 3,5-di-tert-butyl-4-hydroxybenzaldehyde (Aldrich, 5.00 g, 20.9 mmol), piperidine (Aldrich, 0.18 g, 2.10 mmol) and acetic acid (0.13 g, 2.10 mmol) in toluene (100 mL) was warmed at reflux (water removed using a Dean-Stark trap). After 5.5 h malonic acid was added (4.36 g, 41.9 mmol) and the reaction mixture was warmed at reflux for 12 h. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was chromatographed (SiO2, flash, methanol-methylene chloride, 5:95) to give 2.43 g (42.1% yield of (E)-1-(3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl propenoic acid as a white solid.

reactant | malonic acid | 41.9 mmol, 4.36 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 20.9 mmol, 5.00 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | piperidine | 2.10 mmol, 0.18 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 2.10 mmol, 0.13 g | C(C)(=O)O | C2H4O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl propenoic acid | 42.1% yield | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)O)=C | C17H24O3
